data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.70132_si.json
{"doi": "10.1002_adsc.70132_si", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "electrochemical three-component thiomethoxylation of vinyl ethers with diaryl disulfides and methanol via thiyl-radical addition/radical-polar crossover", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "anodic oxidation of PhSSPh (or thiolate) to generate PhS• thiyl radical that adds to the vinyl ether", "key_intermediates": [{"name": "phenylthiyl radical (PhS•)", "smiles": "[S]c1ccccc1", "role": "reactive"}, {"name": "alpha-alkoxy carbon radical from PhS• addition to ethyl vinyl ether", "smiles": "CCOC([CH2]SP)", "role": "transient"}, {"name": "TEMPO-SPh adduct (radical trap product, C15H23NOS)", "smiles": "CC1(C)CCCC(C)(C)N1OSc1ccccc1", "role": "off_pathway"}], "electron_flow": "Anodic oxidation generates a PhS• thiyl radical from PhSSPh; PhS• adds to the vinyl ether to give an α-alkoxy carbon radical, which is further oxidized (anodically) to an oxocarbenium ion that is trapped by MeOH to furnish the α-methoxy thioether product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Target product formed only in trace amounts; TEMPO-SPh adduct (C15H24NOS+, m/z 266.1571, calcd 266.1573) detected by HRMS, confirming a thiyl-radical intermediate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Only the radical-trapping control experiment is shown on this page; trapping captures the PhS• rather than the carbon radical, so the downstream cation step (radical-polar crossover with MeOH) is inferred from product structure rather than directly probed here."}
